US07648997B2
A solution of 2-[3-(5,6-dimethyl-8-propyl-7H-imidazo[4,5-c]tetraazolo[1,5-α]pyridin-7-yl)propoxy]-1H-isoindole-1,3(2H)-dione (8.50 g, 19.6 mmol) and triphenylphosphine (10.3 g, 39.2 mmol) in 1,2-dichlorobenzene (200 mL) was heated at 125° C. for 2 days, then was allowed to stand at room temperature for 3 days. The solvent was removed under reduced pressure. To the resulting residue was added methanol (40 mL) and 1 M HCl (20 mL). The solution was heated at 50° C. for 5 h, then was allowed to cool to room temperature and was concentrated under reduced pressure. Water (20 mL) was added and the mixture was extracted with chloroform (3×10 mL). NaOH (1 M) was added to the aqueous layer to adjust the pH to 11. The aqueous layer was extracted with chloroform (4×30 mL). The combined organic layers were dried over sodium sulfate, filtered, and concentrated under reduced pressure. The crude product was purified by chromatography on a HORIZON HPFC system (silica gel, gradient elution with CMA in chloroform) to yield 1.00 g of 1-[3-(aminooxy)propyl]-6,7-dimethyl-2-propyl-1H-imidazo[4,5-c]pyridin-4-amine.

reactant | 2-[3-(5,6-dimethyl-8-propyl-7H-imidazo[4,5-c]tetraazolo[1,5-α]pyridin-7-yl)propoxy]-1H-isoindole-1,3(2H)-dione | 19.6 mmol, 8.50 g | CC1=C(C2=C(C=3N1N=NN3)N=C(N2CCCON2C(C3=CC=CC=C3C2=O)=O)CCC)C | C22H23N7O3
reactant | triphenylphosphine | 39.2 mmol, 10.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | 1,2-dichlorobenzene | 200 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 1-[3-(aminooxy)propyl]-6,7-dimethyl-2-propyl-1H-imidazo[4,5-c]pyridin-4-amine | 1.00 g | NOCCCN1C(=NC=2C(=NC(=C(C21)C)C)N)CCC | C14H23N5O
